US06831087B2
a) 4-Bromo-6-methyl-pyridin-2-yl-amine
A mixture of 2,4-dibromo-6-methyl-pyridine (J. Bernstein et al., J. Amer. Chem. Soc., 1947, 69, 1147) (22.6 g, 90 mmol) and aqueous ammonia (25%, 260 ml) was stirred in an autoclave at 160° C. for 4 hr. The reaction mixture was cooled to rt and extracted with Et2O. The organic phase was dried (Na2SO4), concentrated and chromatographed (SiO2 with AcOEt/hexane/NEt3=10/30/1) to yield the title compound as a white crystalline material (4.0 g, 6%). NMR (250 MHz, DMSO): δ=3.33 (s, 3H, CH3), 6.13 (s, broad, 2H, NH2), 6.44 (s, 1H, arom-H), 6.54 (s, 1H, arom-H).

reactant | 2,4-dibromo-6-methyl-pyridine | 90 mmol, 22.6 g | BrC1=NC(=CC(=C1)Br)C | C6H5Br2N
reactant | ammonia | 260 ml | N | H3N
product | 4-Bromo-6-methyl-pyridin-2-yl-amine | BrC1=CC(=NC(=C1)C)N | C6H7BrN2
